US08211892B2
2.1: 1-(4-Bromophenyl)-4-(methanesulphonyl)Piperazine
7.7 ml of methanesulphonyl chloride are added to a solution of 20 g of 1-(4-bromophenyl)piperazine and 17.34 ml of triethylamine in 394 ml of dichloromethane. The reaction medium is stirred at ambient temperature for 4 h. Water is subsequently added and the organic phase is washed twice with water and dried over magnesium sulphate and then the solvent is evaporated under reduced pressure to result in 26.2 g of 1-(4-bromophenyl)-4-(methanesulphonyl)piperazine. The product is subsequently used as is without other purification.

reactant | methanesulphonyl chloride | 7.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-bromophenyl)piperazine | 20 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | triethylamine | 17.34 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 394 ml | ClCCl | CH2Cl2
product | 1-(4-Bromophenyl)-4-(methanesulphonyl)Piperazine | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15BrN2O2S
